US05106857
1-Ethyl-N-(1-methyl-3-pyrrolidinyl)-1H-benzimidazol-2-amine
A solution of 38.6 g (0.21 mol) of 2-chloro-1-ethylbenzimidazole and 24 g (0.24 mol) of 3-amino-1-methylpyrrolidine in 150 mL of n-butanol was heated to reflux for 72 h and concentrated on the rotary evaporator (70° C./30 mm). The residue was partitioned between CHCl3 and dilute NaOH. The CHCl3 solution was dried (Na2SO4) and concentrated. For purification the material obtained was converted to the difumarate salt. The residue (68 g) was treated with a boiling solution of 64 g of fumaric acid in 600 mL of isopropyl alcohol and 100 mL of H2O. The resulting salt weighted 48 g (63% yield). A sample was recrystallized from ethanol-H2O, mp 204°-212° C. (dec).

reactant | 2-chloro-1-ethylbenzimidazole | 0.21 mol, 38.6 g | ClC1=NC2=C(N1CC)C=CC=C2 | C9H9ClN2
reactant | 3-amino-1-methylpyrrolidine | 0.24 mol, 24 g | NC1CN(CC1)C | C5H12N2
reactant | fumaric acid | 64 g | C(\C=C\C(=O)O)(=O)O | C4H4O4
solvent | n-butanol | 150 mL | C(CCC)O | C4H10O
solvent | isopropyl alcohol | 600 mL | C(C)(C)O | C3H8O
solvent | H2O | 100 mL | O | H2O
product | 1-Ethyl-N-(1-methyl-3-pyrrolidinyl)-1H-benzimidazol-2-amine | 63% yield | C(C)N1C(=NC2=C1C=CC=C2)NC2CN(CC2)C | C14H20N4
